US05741908
The crude 2-methyl-4-oxo-3,1-benzoxazine was dissolved in acetic acid (1.9L). Sodium azide (130.0 g) was added to the solution in portions with stirring. The reaction mixture was cooled in an ice bath to maintain the reaction temperature at 25° to 30° C. during the addition. The reaction mixture was allowed to stir at ambient temperature over the weekend. The acetic acid was removed under vacuum to provide a white solid. The solid was combined with 10% sodium hydroxide (1.4L) then heated on a steam bath for 1 hour. Additional sodium hydroxide (120 g of 50% sodium hydroxide) was added. The mixture was heated on a steam bath for an additional hour then allowed to cool to ambient temperature overnight. Additional sodium hydroxide (120 g of 50% sodium hydroxide) was added. The mixture was heated on a steam bath for 2 hours then allowed to cool. The reaction mixture was poured with rapid stirring into a mixture of concentrated hydrochloric acid (1.0L) and ice (3L). The resulting mixture was stirred at ambient temperature overnight. A precipitate was isolated by filtration, rinsed with water then slurried with water (4L). The solid was isolated by filtration, rinsed with water then oven dried at 50° C. to provide 278.0 g of crude 2-(5-methyl-1H-tetrazol-1-yl)benzoic acid as a tan solid, m.p. 157°-160° C. The crude material was dissolved in 10% sodium hydroxide (2.5L). The resulting solution was heated (95°-99° C.) for 2.5 hours, cooled, then poured with vigorous stirring into a mixture of concentrated hydrochloric acid (500 mL) and ice (5L). The resulting mixture was allowed to stir for 2 hours. The precipitate was isolated by filtration, rinsed with water, then slurried with water (3L). The solid was isolated by filtration, rinsed with water then dried overnight at ambient temperature to provide 228 g of 2-(5-methyl-1H-tetrazol-1-yl)benzoic acid, m.p. 164°-166° C.

reactant | 2-methyl-4-oxo-3,1-benzoxazine | CC1=NC2=C(C(O1)=O)C=CC=C2 | C9H7NO2
reactant | Sodium azide | 130.0 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | 1.4L | [OH-].[Na+]
reactant | sodium hydroxide | 120 g | [OH-].[Na+]
reactant | sodium hydroxide | 120 g | [OH-].[Na+]
reactant | hydrochloric acid | 1.0L | Cl | ClH
solvent | acetic acid | 1.9L | C(C)(=O)O | C2H4O2
product | 2-(5-methyl-1H-tetrazol-1-yl)benzoic acid | 278.0 g | CC1=NN=NN1C1=C(C(=O)O)C=CC=C1 | C9H8N4O2
